US06605601B2
Step 4: 8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-6-methylsulfanyl-3-propyl-3,7-dihydro-purin-2-one
8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-3-propyl-6-thioxo-1,3,6,7-tetrahydro-purin-2-one (120 mg, 0.36 mmol) was suspended in 3 mL of H2O and 1.5 mL of EtOH. NaOH was added as a solution in 0.4 mL of H2O, followed by MeI. The reaction mixture was stirred at rt for 1 h. It was then neutralized with 0.1 N HCl and extracted with CHCl3. The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to afford essentially quantitative amount of the titled compound.

reactant | 8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-3-propyl-6-thioxo-1,3,6,7-tetrahydro-purin-2-one | 0.36 mmol, 120 mg | OC12CCC(CC1)(CC2)C2=NC=1N(C(NC(C1N2)=S)=O)CCC | C16H22N4O2S
reactant | NaOH | [OH-].[Na+]
reactant | MeI | CI | CH3I
reactant | HCl | 0.1 N | Cl | ClH
solvent | H2O | 3 mL | O | H2O
solvent | EtOH | 1.5 mL | CCO | C2H6O
solvent | H2O | 0.4 mL | O | H2O
product | 8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-6-methylsulfanyl-3-propyl-3,7-dihydro-purin-2-one | OC12CCC(CC1)(CC2)C2=NC=1N(C(N=C(C1N2)SC)=O)CCC | C17H24N4O2S
